US08669234B2
[1-(2-{5-[4-(3-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenoxy)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester:
Following the procedure used to prepare compound (1-{3-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester, except that 2-[5-(4-{3-[2-(1-Boc-pyrrolidin-2-yl)-3H-imidazol-4-yl]-phenoxy}-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester was used instead of 2-(5-{4′-[2-(1-Boc-pyrrolidin-3-yl)-3H-imidazol-4-yl]-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester. 1H-NMR (300 MHz, CD3OD) δ 7.80-7.10 (m, 10H), 5.30-5.15 (m, 2H), 4.30-4.20 (m, 2H), 4.18-4.05 (m, 2H), 3.95-3.80 (m, 2H), 3.70-3.60 (m, 6H), 2.65-2.45 (m, 2H), 2.40-2.00 (m, 8H), 1.05-0.85 (m, 12H); m/z 755.3 (M+H)+.

reactant | (1-{3-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1CC(CC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O | C40H50N8O6
reactant | 2-[5-(4-{3-[2-(1-Boc-pyrrolidin-2-yl)-3H-imidazol-4-yl]-phenoxy}-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)OC1=CC(=CC=C1)C=1NC(=NC1)C1N(CCC1)C(=O)OC(C)(C)C | C36H44N6O5
product | [1-(2-{5-[4-(3-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenoxy)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)OC1=CC(=CC=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O | C40H50N8O7
